US08242125B2
91-B. (±)-5-[6-(2-Amino-1-hydroxy-ethyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
Ranney-Ni (20 mg) is washed with MeOH (3×5 mL) before a solution of (±)-5-[6-(cyano-trimethylsilanyloxy-methyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide (100 mg, 0.19 mmol) in MeOH (5 mL) and THF (3 mL) is added. The mixture is stirred under H2 atmosphere (ballon) overnight. The mixture is filtered through Celite® and the filtrate is concentrated. The residue is then separated by FCC (0-10% MeOH/EtOAc) to provide the title compound. MS (ESI) m/z 458.1 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 8.60-8.70 (m, 1H), 8.36 (d, J=8.59 Hz, 1H), 8.06 (br. S., 1H), 7.90 (d, J=7.58 Hz, 1H), 7.95 (d, J=3.28 Hz, 2H), 7.73 (d, J=4.55 Hz, 1H), 7.57 (t, J=7.83 Hz, 1H), 7.37-7.47 (m, 3H), 7.12 (d, J=8.59 Hz, 2H), 7.04 (s, 1H), 6.75 (br. S., 1H), 4.89 (d, J=5.05 Hz, 1H), 3.67 (dd, J=12.25, 7.71 Hz, 2H).

reactant | (±)-5-[6-(cyano-trimethylsilanyloxy-methyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.19 mmol, 100 mg | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)C(O[Si](C)(C)C)C#N)(F)F | C25H22F3N5O3Si
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (±)-5-[6-(2-Amino-1-hydroxy-ethyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)C(CN)O)(F)F | C22H18F3N5O3
